US07531532B2
2-Amino-4-(4-nitrophenoxy)pyridine
2-Amino-4-chloropyridine (2.00 g) was dissolved in N-methylpyrrolidone (31.8 ml), and then 4-nitrophenol (6.51 g) and N,N-diisopropylethylamine (15.9 ml) were added thereto under a nitrogen atmosphere, followed by stirring at 150° C. for 3 days. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide (32 ml). The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2 to 1:5). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was then dried in vacuum to provide the titled compound (764 mg, 21.2%) as a brown solid.

reactant | 2-Amino-4-chloropyridine | 2.00 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 4-nitrophenol | 6.51 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | N,N-diisopropylethylamine | 15.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methylpyrrolidone | 31.8 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Amino-4-(4-nitrophenoxy)pyridine | 764 mg, 21.2% | NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
